US08486962B2
A mixture of 1-chloro-4-nitrobenzene (3 g, 19 mmol), L-proline (2.19 g, 19.0 mmol) and triethylamine (10.6 ml, 76 mmol) were dissolved in DMSO (15 ml) then heated at 90° C. for 24 hr. The reaction mixture was concentrated under reduced pressure, the residue treated with water and extracted with dichloromethane. The organic layer was washed with brine, dried and evaporated to a residue. Purification by column chromatography using dichloromethane/methanol (97:3) gave 1-(4-nitro-phenyl)-pyrrolidine-2-carboxylic acid (0.9 g, 20%).

reactant | 1-chloro-4-nitrobenzene | 19 mmol, 3 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | L-proline | 19.0 mmol, 2.19 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | triethylamine | 76 mmol, 10.6 ml | C(C)N(CC)CC | C6H15N
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | 1-(4-nitro-phenyl)-pyrrolidine-2-carboxylic acid | 0.9 g, 20% | [N+](=O)([O-])C1=CC=C(C=C1)N1C(CCC1)C(=O)O | C11H12N2O4
